US07405210B2
2-[(5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carbonyl)amino]-3-oxo-3-phenylpropionic acid ethyl ester
5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid (100 mg, 0.51 mmol) and 4-(4,6-dimethoxy[1.3.5]triazin-2-yl)-4-methylmorpholinium chloride (DMTMM) (183 mg, 0.66 mmol) were dissolved in THF (20 ml). After 5 min, 2-amino-3-oxo-3-phenylpropionic acid ethyl ester hydrochloride (Tetrahedron Lett., 1993, 34(2), 211–214; 124 mg, 0.51 mmol) and 4-methylmorpholine (56 μl, 0.51 mmol) were added and the reaction mixture stirred at rt for 72 h. The solvent was removed in vacuo and the residue partitioned between water (40 ml) and EtOAc (3×30 ml). The combined organics were dried (MgSO4), concentrated in vacuo and purified by chromatography on silica gel eluting with methanol:dichloromethane (1:19). This material was further triturated with methanol:diethyl ether (1:19) to give the title compound as a pale yellow solid. m/z (ES+)=386 [M+H]+; RT=3.56 min.

reactant | 5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid | 0.51 mmol, 100 mg | ClC=1C=C2C(=CN1)NC(=C2)C(=O)O | C8H5ClN2O2
reactant | 4-(4,6-dimethoxy[1.3.5]triazin-2-yl)-4-methylmorpholinium chloride | 0.66 mmol, 183 mg | [Cl-].COC1=NC(=NC(=N1)OC)[N+]1(CCOCC1)C
reactant | 2-amino-3-oxo-3-phenylpropionic acid ethyl ester hydrochloride | 0.51 mmol, 124 mg | Cl.C(C)OC(C(C(C1=CC=CC=C1)=O)N)=O
reactant | 4-methylmorpholine | 0.51 mmol, 56 μl | CN1CCOCC1 | C5H11NO
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-[(5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carbonyl)amino]-3-oxo-3-phenylpropionic acid ethyl ester | C(C)OC(C(C(C1=CC=CC=C1)=O)NC(=O)C1=CC=2C(=CN=C(C2)Cl)N1)=O | C19H16ClN3O4
